US05639748
Lithium aluminum hydride (1.53 g, 40 mmol) in ethyl ether (80 ml) was stirred, heated to reflux and treated with a solution of ethyl [(9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepin-6-yl)oxy]acetate (4.0 g, 13.5 mmol) in ethyl ether (60 ml). The mixture was stirred at reflux for 3.5 hours, cooled, and carefully treated with water (1.5 ml), 10% sodium hydroxide (4.5 ml) and water (1.5 ml). The mixture was filtered and the filtrate dried with magnesium sulfate and concentrated to give 3,2 g (91%) of [(9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepin-6-yl)oxy]ethanol.

reactant | Lithium aluminum hydride | 40 mmol, 1.53 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl [(9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepin-6-yl)oxy]acetate | 13.5 mmol, 4.0 g | ClC1=CC=C(C2=C1CCN(CC2)C)OCC(=O)OCC | C15H20ClNO3
reactant | water | 1.5 ml | O | H2O
reactant | sodium hydroxide | 4.5 ml | [OH-].[Na+]
reactant | water | 1.5 ml | O | H2O
solvent | ethyl ether | 80 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 60 ml | C(C)OCC | C4H10O
product | [(9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepin-6-yl)oxy]ethanol | 3,2 g, 91% | ClC1=CC=C(C2=C1CCN(CC2)C)OC(C)O | C13H18ClNO2
